US04394515
8-Amino-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic Acid
Reflux 200 mg. of 8-acetamido-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic acid for 16 hours in a mixture of 5 cc. of acetic acid and 5 cc. of 50% aqueous sulfuric acid. Dilute with water and separate the solids by filtration. Wash with water and dry to obtain the title product.

reactant | 8-acetamido-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic acid | C(C)(=O)NC=1C=CC2=C(CCC3=C(S2)C=C(C=C3)C(=O)O)C1 | C17H15NO3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 8-Amino-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic Acid | NC=1C=CC2=C(CCC3=C(S2)C=C(C=C3)C(=O)O)C1 | C15H13NO2S
